US05095015
To a stirred suspension of 4-Amino-3-cyano-1,2,5,6-tetrahydropyridine (prepared according to a the procedure described by Taub et al., 1967, J. Chem. Soc. C: 1558) (95.51 g, 775 mmol) in pyridine (500 mL), benzoic anhydride (274 g, 1.20 mol) was added in portions over 1-2 hours. After stirring an additional 30 minutes, the precipitate was collected, washed first with toluene, then ether, and subsequently allowed to dry to afford 1-benzoyl-4-amino-3-cyano-1,2,5,6-tetrahydropyridine as a white solid, m.p. 178°-181° C.

reactant | 4-Amino-3-cyano-1,2,5,6-tetrahydropyridine | NC1=C(CNCC1)C#N | C6H9N3
reactant | benzoic anhydride | 1.20 mol, 274 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | pyridine | 500 mL | N1=CC=CC=C1 | C5H5N
product | 1-benzoyl-4-amino-3-cyano-1,2,5,6-tetrahydropyridine | C(C1=CC=CC=C1)(=O)N1CC(=C(CC1)N)C#N | C13H13N3O
